US04202901
To the solution prepared from 80 ml of methanol and 0.89 g of sodium, 6.53 g of 5-mercaptopyridine-2-carboxylic acid methyl ester are added, followed by the solution of 12.6 g of methyl α-bromo-m-trifluoromethylphenylacetate in 50 ml of methanol while stirring under nitrogen. The mixture is warmed for 1/2 hour on the steam bath and allowed to stand at room temperature overnight. It is evaporated, the residue taken up in water-diethyl ether, the organic phase washed with water, dried and evaporated. The residue is dissolved in the minimum amount of methanolisopropanol (1:1), the solution mixed with 85 ml of N aqueous sodium hydroxide, warmed for 1/2 hour on the steam bath, and stored at room temperature overnight. The mixture is evaporated, the residue taken up in 2 N hydrochloric acid and the mixture extracted with diethyl ether-ethyl acetate (1:1). The extract is washed with water, dried and evaporated and the residue recrystallized from diethyl ether-ethyl acetate, to yield the 5-(α-carboxy-m-trifluoromethylbenzylmercapto)-pyridine-2-carboxylic acid melting at 190°-195°.

reactant | sodium | 0.89 g | [Na] | Na
reactant | 5-mercaptopyridine-2-carboxylic acid methyl ester | 6.53 g | COC(=O)C1=NC=C(C=C1)S | C7H7NO2S
reactant | methyl α-bromo-m-trifluoromethylphenylacetate | 12.6 g | BrC(C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C10H8BrF3O2
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 5-(α-carboxy-m-trifluoromethylbenzylmercapto)-pyridine-2-carboxylic acid | C(=O)(O)C(C1=CC(=CC=C1)C(F)(F)F)SC=1C=CC(=NC1)C(=O)O | C15H10F3NO4S
